* DCSFQ_BVM — BVM readout interface cell (H7 main route)
* Source: ColdFlux DCSFQ skeleton, input stage scaled to BVM levels
* Ports: a q | Bias: internal (IB1/IB2)
* Changes vs THmitll_DCSFQ (2026-08-06, spec 2026-08-06-dcsfq-bvm-cell-design.md):
*   B1/B2: 2.25 → 0.8 (225→80µA)  — threshold ≈25µA at port
*   IB1:   275u → 100u             — ~60% bias operating point
*   RB/LRB auto-scale via formula (RB≈8.6Ω, LRB≈4.85/5.35pH)
*   B3/IB2/L1-L6 unchanged — output stays JTL-compatible (250µA)
* Usage: .include circuits/models/jjmit.cir (required; model not self-contained)
*
.subckt THmitll_DCSFQ_BVM a q
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2
.param Lsheet=1.13e-12
.param LP=0.5p
.param IC=2.5
.param LB=2p
.param BiasCoef=0.7
.param B1=0.8
.param B2=0.8
.param B3=IC
.param IB1=100u
.param IB2=B3*Ic0*BiasCoef
.param LB1=LB
.param LB2=LB
.param L1=1p
.param L2=3.9p
.param L3=0.6p
.param L4=1.1p
.param L5=4.5p
.param L6=Phi0/(4*IC*Ic0)
.param LP2=LP
.param LP3=LP
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param LRB1=(RB1/Rsheet)*Lsheet
.param LRB2=(RB2/Rsheet)*Lsheet+LP
.param LRB3=(RB3/Rsheet)*Lsheet+LP
B1 2 3 jjmit area=B1
B2 5 6 jjmit area=B2
B3 7 8 jjmit area=B3
IB1 0 4 pwl(0 0 5p IB1)
IB2 0 9 pwl(0 0 5p IB2)
LB1 4 3 2.825E-012
LB2 9 7 2.942E-012
L1 a 1 1.672E-012
L2 1 0 3.901E-012
L3 1 2 5.953E-013
L4 3 5 1.1E-012
L5 5 7 4.542E-012
L6 7 q 2.012E-012
LP2 6 0 3.924E-013
LP3 8 0 3.841E-013
RB1 2 102 RB1
LRB1 102 3 LRB1
RB2 5 105 RB2
LRB2 105 0 LRB2
RB3 7 107 RB3
LRB3 107 0 LRB3
.ends
